US09062015B2
FS1002: 2-(2-{4-[6-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]-piperazin-1-yl}ethylamino)ethanol
450 μl of 1 N NaOH were added to 70 mg (0.15 mmol) of 3-(2-{4-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]piperazin-1-yl}ethyl)oxazolidin-2-one in 2 ml of methanol, and the mixture was refluxed for 3 days. The reaction mixture was evaporated, extracted with ethyl acetate, dried and evaporated. The crude product was purified by means of pep. HPLC.

reactant | NaOH | 1 N, 450 μl | [OH-].[Na+]
reactant | 3-(2-{4-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]piperazin-1-yl}ethyl)oxazolidin-2-one | 0.15 mmol, 70 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCN(CC1)CCN1C(OCC1)=O)C | C28H38N4O2
solvent | methanol | 2 ml | CO | CH4O
product | 2-(2-{4-[6-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]-piperazin-1-yl}ethylamino)ethanol | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCN(CC1)CCNCCO)C | C27H40N4O
